Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C@@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17],4.58320131334
[H:16].[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.57917089574
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.96605199572
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2],7.216295671719999
[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12],-3.73168425159
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],2.80902147742
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.92528663233
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-3.95955780156
[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],-0.943387352556
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])=[O:6]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.4015196637800003
[H:1][C:2]([H:3])([H:4])[C:6][C:9]([C:10]([H:11])([H:12])[C:13]=[C:5]([H:7])[H:8])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-1.52857776069
[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-5.22954870888
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:15].[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14],4.61066278671
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],1.51993132721
[C:11]([H:12])[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-5.05326831328
[H:1].[O:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-2.05718095713
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3][O:4][H:5].[O:6]=[C:7]([H:8])[H:9],1.318229507
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.87758010917
[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-2.0565906861500003
[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],5.627507593069999
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([H:9])(=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],-0.51392544067
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[H:10],4.00438026444
[O:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[O:1][C:2]([O:3])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.71582463066
[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][O:2],6.11376648054
[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:8]([O:7])([H:9])[H:10],1.75883955357
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[O:12][H:13],4.77748839181
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.66354658332
